US08119666B2
A. 2-Hydroxy-3-isopropylbenzoic acid methyl ester
To a solution of 2-hydroxy-3-isopropylbenzoic acid (4.5 g, 25 mmol) in MeOH (75 mL) is added 10 drops of sulfuric acid and the mixture is heated in an oil bath at 45° C. for 18 h. Extra sulfuric acid (10 drops) is added and the mixture is heated again at 60° C. for 18 h. Solvent is evaporated under reduced pressure and the residue is dissolved in EtOAc. The organic phase is then washed with saturated NaHCO3 (4×), water (1×) and brine and is dried with Na2SO4 and MgSO4, and concentrated. The residue is purified by flash column chromatography to give the title compound as an oil.

reactant | 2-hydroxy-3-isopropylbenzoic acid | 25 mmol, 4.5 g | OC1=C(C(=O)O)C=CC=C1C(C)C | C10H12O3
reactant | MeOH | 75 mL | CO | CH4O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | 2-Hydroxy-3-isopropylbenzoic acid methyl ester | COC(C1=C(C(=CC=C1)C(C)C)O)=O | C11H14O3
